US07601844B2
Step 3. (4R,5S)-tert-butyl 4-(4-chlorophenyl)-4,5-dihydroxy-3,3-dimethylpiperidine-1-carboxylate
The title compound was prepared via the method of Sharpless, et. al., J. Org. Chem. 57, 1992, 2768. A stirring suspension of AD-MIX-alpha (2.3 g, 1.554 mmol) and methanesulfonamide (148 mg, 1.554 mmol) in 1:1 tert-butanol/water (16 mL) was cooled to 0° C., then treated with tert-butyl 4-(4-chlorophenyl)-5,5-dimethyl-5,6-dihydropyridine-1(2H)-carboxylate (500 mg, 1.554 mmol). The mixture was allowed to come to room temperature, and stirred for 8 days. The reaction was treated with sodium sulfite (3 g), stirred for 30 minutes, then extracted 3× with ethyl acetate. The combined organic phases were washed 3× with 1M NaOH, once with water, and once with brine, dried over sodium sulfate, and concentrated in-vacuo. The residue was purified over silica gel, eluting with ethyl acetate/hexanes (10%-20%-50% EtOAc) to yield the title compound (196 mg, 0.551 mmol, 35.5% yield) as a colorless foam. MS (ESI+)=378.26, (M+Na)+.

reactant | AD-MIX-alpha | 1.554 mmol, 2.3 g | CC[C@@H]1CN2CC[C@@H]1C[C@@H]2[C@@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | methanesulfonamide | 1.554 mmol, 148 mg | CS(=O)(=O)N | CH5NO2S
reactant | tert-butyl 4-(4-chlorophenyl)-5,5-dimethyl-5,6-dihydropyridine-1(2H)-carboxylate | 1.554 mmol, 500 mg | ClC1=CC=C(C=C1)C1=CCN(CC1(C)C)C(=O)OC(C)(C)C | C18H24ClNO2
reactant | sodium sulfite | 3 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | tert-butanol water | 16 mL | C(C)(C)(C)O.O
product | (4R,5S)-tert-butyl 4-(4-chlorophenyl)-4,5-dihydroxy-3,3-dimethylpiperidine-1-carboxylate | 0.551 mmol, 196 mg, 35.5% yield | ClC1=CC=C(C=C1)[C@]1(C(CN(C[C@@H]1O)C(=O)OC(C)(C)C)(C)C)O | C18H26ClNO4
